US08703761B2
B. {1-[5-(4-Cyano-phenoxy)-4-cyclopropyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester
A mixture of 2-Benzyloxycarbonylamino-2-methyl-propionic acid (360 mg, 1.52 mmol), HBTU (576 mg, 1.52 mmol) and Et3N (0.21 mL, 1.5 mmol) in DMF (4 mL) was stirred at room temperature for 30 min. To this was added a solution of 4-(2-Amino-4-cyclopropyl-thiazol-5-yloxy)-benzonitrile (260 mg, 1.01 mmol) in DMF (4 mL). The mixture was heated at 85° C. for 18 h and partitioned between EtOAc and 3M HCl. The organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 477.1 (MH+).

reactant | 2-Benzyloxycarbonylamino-2-methyl-propionic acid | 1.52 mmol, 360 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
reactant | HBTU | 1.52 mmol, 576 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.5 mmol, 0.21 mL | CCN(CC)CC | C6H15N
reactant | 4-(2-Amino-4-cyclopropyl-thiazol-5-yloxy)-benzonitrile | 1.01 mmol, 260 mg | NC=1SC(=C(N1)C1CC1)OC1=CC=C(C#N)C=C1 | C13H11N3OS
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | {1-[5-(4-Cyano-phenoxy)-4-cyclopropyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C)(C)C(NC=1SC(=C(N1)C1CC1)OC1=CC=C(C=C1)C#N)=O)=O | C25H24N4O4S
